US03961055
2-Benzyloxy-6-dimethylsulphamoylphenothiazine (m.p. 192°-194°C.; 69.0 g.) is prepared by reacting benzyl chloride (106.0 g.) with 2-hydroxy-6-dimethylsulphamoylphenothiazine (200 g.).

reactant | benzyl chloride | 106.0 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 2-hydroxy-6-dimethylsulphamoylphenothiazine | 200 g | OC1=CC=2NC3=CC=CC(=C3SC2C=C1)S(N(C)C)(=O)=O | C14H14N2O3S2
product | 2-Benzyloxy-6-dimethylsulphamoylphenothiazine | 69.0 g | C(C1=CC=CC=C1)OC1=CC=2NC3=CC=CC(=C3SC2C=C1)S(N(C)C)(=O)=O | C21H20N2O3S2
